US04125729
Methyl[p-(p-chlorophenylthio)phenyl]acetate
A mixture of 21 g of [p-(p-chlorophenylthio)phenyl]acetic acid and 11.9 g of thionyl chloride are stirred overnight at room temperature. To the resulting greenish yellow solution is added 20 ml of benzene and the solvent is evaporated at reduced pressure. This procedure is repeated once. The residue is added dropwise to 300 ml of methanol, maintained at 0° C, and the resulting solution is stirred overnight. The solvent is evaporated at reduced pressure and the mixture is dissolved in 200 ml of ether. The ether layer is washed with 100 ml of water, 100 ml of saturated NaHCO3, 100 ml of saturated brine and dried over MgSO4. Evaporation of the solvent and distillation of the residue affords the product as a light yellow oil.

reactant | [p-(p-chlorophenylthio)phenyl]acetic acid | 21 g | ClC1=CC=C(C=C1)SC1=CC=C(C=C1)CC(=O)O | C14H11ClO2S
reactant | thionyl chloride | 11.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | Methyl[p-(p-chlorophenylthio)phenyl]acetate | COC(CC1=CC=C(C=C1)SC1=CC=C(C=C1)Cl)=O | C15H13ClO2S
